*******************************************************************************
*****************************************************************
* NXP BUK9Y58_75B
*
* Polarity N-Channel
* Ratings 75V/5.80E-02OHMS/10A
*
* Date Created Tue Jun 16 03:42:31 2009
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9Y58_75B DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.01256636
RLD1 5 4 1e-06
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.2619448
RLS1 8 7 0.00035

RDS 7 4 50000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0253843797587014 TC=0.0100551713307516,-2.55221528661039e-05
RBD 9 4 0.00376191897219905 TC=0.0100551713307516,-2.55221528661039e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 8.26e-10
RG 1 2 1.55820727872101

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -30	800
+ -10	800
+ -5	800
+ -4	800
+ -3	800
+ -2	1060
+ -1	810
+ -0.5	638
+ -0.2	529
+ -0.1	492
+ 0	226
+ 0.1	410
+ 0.2	364
+ 0.5	227
+ 1	154
+ 2	119
+ 5	87
+ 10	71
+ 15	62
+ 20	56
+ 25	52
+ 30	49



.MODEL MINT NMOS(Vto=1.79702895442305 Kp=1.1933e+01 Nfs=600000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=84.00 Ibv=2.50E-04 Rs=1E-6 Is=1.52556301406335e-13
+ N=1 M=0.1 VJ=0.5 Fc=0.5 Cjo=0 Tt=2.6e-08)

.ENDS




*******************************************************************************
